US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-furfurylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 50 mg (0.13 mmol) of N-methylmitomycin A in 6 ml of anhydrous methanol, 0.5 ml of furfurylamine was added with stirring. The solvent was removed by evaporation under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with a mixture of chloroform and ethyl acetate (1:1 by volume) was evaporated under reduced pressure. Recrystallization from a mixture of chloroform and hexane gave 31 mg (55.7% yield) of the desired product as purple colored crystals having a melting point of 140°-141° (decomposing) and providing the following analyses:

reactant | N-methylmitomycin A | 0.13 mmol, 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | methanol | 6 ml | CO | CH4O
solvent | furfurylamine | 0.5 ml | C(C1=CC=CO1)N | C5H7NO
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-furfurylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 31 mg, 55.7% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC1=CC=CO1)C)=O)CC1C2N1C)OC | InChI=1S/C20H23N3O5.CH3NO2/c1-10-15(21-7-11-5-4-6-28-11)18(26)14-12(9-24)20(27-3)19-13(22(19)2)8-23(20)16(14)17(10)25;2-1(3)4/h4-6,12-13,19,21,24H,7-9H2,1-3H3;2H2,(H,3,4)
